US07622471B2
2-(N-tert-Butoxycarbonylpiperidin-2-yl)ethyl methanesulfonate
2-(2-Hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester (229 mg) obtained from Referential Example 77 and triethylamine (209 μL) were dissolved in methylene chloride (5 mL) To the resultant solution, methanesulfonyl chloride (116 μL) was added at room temperature, followed by stirring for 30 minutes. The residue obtained by removal through evaporation of the reaction solvent under reduced pressure was partitioned between water and methylene chloride. The organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, to thereby give the title compound in the form of crystals (288 mg, 93%).

reactant | 2-(2-Hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 229 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | triethylamine | 209 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 116 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(N-tert-Butoxycarbonylpiperidin-2-yl)ethyl methanesulfonate | CS(=O)(=O)OCCC1N(CCCC1)C(=O)OC(C)(C)C | C13H25NO5S
